US05665718
100 ml of methylamine (33% in ethanol) were added dropwise at 70° to a solution of 7.28 g (15.4 mmol) of (S)-2-[5-(8-oxo-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-1-yl)-1,2,4-oxadiazol-3-yl-methyl]-1,3-dihydro-isoindole-1,3-dione in 100 ml of ethanol and the mixture was stirred at 70° for a further two hours. The reaction mixture was evaporated and the residue was chromatographed (silica gel, methylene chloride/methanol 20:1). There were obtained 4.36 g (83%) of (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one as colourless crystals of m.p. 156°-158°.

reactant | methylamine | 100 ml | CN | CH5N
reactant | (S)-2-[5-(8-oxo-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-1-yl)-1,2,4-oxadiazol-3-yl-methyl]-1,3-dihydro-isoindole-1,3-dione | 15.4 mmol, 7.28 g | O=C1C2=C(N3C([C@H]4N1CCC4)=C(N=C3)C3=NC(=NO3)CN3C(C4=CC=CC=C4C3=O)=O)C=CS2 | C23H16N6O4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (S)-1-(3-aminomethyl-1,2,4-oxadiazol-5-yl)-10,11,12,12a-tetrahydro-8H-imidazo[5,1-c]pyrrolo[1,2-a]thieno[3,2-e][1,4]diazepin-8-one | 4.36 g, 83% | NCC1=NOC(=N1)C=1N=CN2C1[C@H]1N(C(C3=C2C=CS3)=O)CCC1 | C15H14N6O2S
